US08389511B2
tert-Butyl (3R)-3-(isopropyl{[(2S)-2-methyl-3-oxo-2-phenyl-3,4-dihydro-2H-1,4-benzoxazin-6-yl]-carbonyl}amino)piperidine-1-carboxylate
Using tert-butyl (3R)-3-[(4-fluoro-3-nitrobenzoyl)(isopropyl)amino]piperidine-1-carboxylate and (2S)-2-hydroxy-2-phenylpropanoic acid, the title compound was obtained in a similar manner to Reference Example 22 and Reference Example 2.

reactant | tert-butyl (3R)-3-[(4-fluoro-3-nitrobenzoyl)(isopropyl)amino]piperidine-1-carboxylate | FC1=C(C=C(C(=O)N([C@H]2CN(CCC2)C(=O)OC(C)(C)C)C(C)C)C=C1)[N+](=O)[O-] | C20H28FN3O5
reactant | (2S)-2-hydroxy-2-phenylpropanoic acid | O[C@@](C(=O)O)(C)C1=CC=CC=C1 | C9H10O3
product | tert-Butyl (3R)-3-(isopropyl{[(2S)-2-methyl-3-oxo-2-phenyl-3,4-dihydro-2H-1,4-benzoxazin-6-yl]-carbonyl}amino)piperidine-1-carboxylate | C(C)(C)N([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C(=O)C=1C=CC2=C(NC([C@@](O2)(C2=CC=CC=C2)C)=O)C1 | C29H37N3O5
